US04539419
A mixture of 7.9 g of 7-(2-propenyloxy)-2-naphthalenol and 8.3 g of potassium carbonate in 50 ml of anhydrous acetone was stirred at room temperature for 1.5 hours. Methyl bromoacetate (4.7 ml) was added and stirring was continued for 18 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo to yield (8.4 g) of [[7-(2-propenyloxy)-2-naphthalenyl]oxy]acetic acid methyl ester, mp 69°-70° after recrystallization from ether-hexane.

reactant | 7-(2-propenyloxy)-2-naphthalenol | 7.9 g | C(C=C)OC1=CC=C2C=CC(=CC2=C1)O | C13H12O2
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl bromoacetate | 4.7 ml | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | [[7-(2-propenyloxy)-2-naphthalenyl]oxy]acetic acid methyl ester | 8.4 g | COC(COC1=CC2=CC(=CC=C2C=C1)OCC=C)=O | C16H16O4
